US05559111
d) 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one
Several iodine crystals am added to a suspension of 763 mg of magnesium chips in 0.5 ml of tetrahydrofuran, and the mixture is activated in an ultrasound bath for 30 minutes. Then 4 drops of 1,2-dibromoethane and then a solution of 8.64 g of 4-bromo-2-(2-methoxymethoxyethyl)-anisole in 30 ml of tetrahydrofuran are added dropwise in such a manner that the reaction mixture boils under reflux. When the addition is complete, the mixture is maintained under reflux for a further one hour. The reaction mixture is then added dropwise within a period of 45 minutes, with stirring, to a solution, cooled to -75° C., of 2.85 g of 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxobutyl]-tetrahydrofuran-2-one in 20 ml of tetrahydrofuran. The reaction mixture is stirred for a further 150 minutes at -75° C., and there are then added thereto, at the same temperature, a solution of 1.4 ml of glacial acetic acid in 1 ml of tetrahydrofuran and then 25 ml of saturated ammonium chloride solution. The reaction mixture is then brought to room temperature, poured onto 60 ml of water and extracted three times with 100 ml of ethyl acetate. The organic phases are washed with 50 ml of saturated sodium chloride solution, combined, dried over magnesium sulfate and concentrated by evaporation. Purification of the residue by means of FC (400 g of silica gel, hexane/ethyl acetate=8:2) yields the title compound: Rf (hexane/ethyl acetate=7:3)=0.25; HPLC Rt =48.10 and 50.29 minutes (diastereoisomeric mixture).

reactant | iodine crystals | II | I2
reactant | magnesium | 763 mg | [Mg] | Mg
reactant | 4-bromo-2-(2-methoxymethoxyethyl)-anisole | 8.64 g | BrC1=CC(=C(C=C1)OC)CCOCOC | C11H15BrO3
reactant | 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxobutyl]-tetrahydrofuran-2-one | 2.85 g | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C=O)C(C)C)N=[N+]=[N-])=O | C14H23N3O3
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
catalyst | 1,2-dibromoethane | 4 drops | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
solvent | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
product | 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)O)C(C)C)N=[N+]=[N-])=O | C25H39N3O6
